US06884821B1
0.6 g of ethyl 1-methyl-2-phenyl-1H-4-imidazolecarboxylate was dissolved in 10 ml ethanol and 1 ml of 5N sodium hydroxide was added, followed by heating under reflux for 1 hour. The reaction solution was ice-cooled and neutralized with 2N hydrochloric acid, followed by extracting with ethyl acetate and tetrahydrofuran. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and evaporated, to give 0.5 g of 1-methyl-2-phenyl-1H-4-imidazolecarboxylic acid.

reactant | ethyl 1-methyl-2-phenyl-1H-4-imidazolecarboxylate | 0.6 g | CN1C(=NC(=C1)C(=O)OCC)C1=CC=CC=C1 | C13H14N2O2
reactant | sodium hydroxide | 5N, 1 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-methyl-2-phenyl-1H-4-imidazolecarboxylic acid | 0.5 g | CN1C(=NC(=C1)C(=O)O)C1=CC=CC=C1 | C11H10N2O2
